US06037309
i) Synthesis of 3-cyano-1-(3-hydroxy-2,2-dimethylpropyl)-6-hydroxy-4-methylpyrid-2-one
Ethyl acetoacetate (13 g) and ethyl cyanoacetate (11.3 g) were added sequentially to a mixture of neo-pentanolamine (25.7 g) and water (5 cm3) keeping the temperature <10C. The mixture was then refluxed for 16 hrs before drowning into water (50 cm3). The aqueous solution was acidified with hydrochloric acid. The pinkish coloured solid which precipitated on stirring for several hours was isolated by filtration, washed with water and dried under reduced pressure. Yield -13.1 g

reactant | Ethyl acetoacetate | 13 g | C(CC(=O)C)(=O)OCC | C6H10O3
reactant | ethyl cyanoacetate | 11.3 g | C(#N)CC(=O)OCC | C5H7NO2
reactant | neo-pentanolamine | 25.7 g | CC(C)(CN)CO | C5H13NO
reactant | hydrochloric acid | Cl | ClH
solvent | water | 50 cm3 | O | H2O
solvent | water | 5 cm3 | O | H2O
product | 3-cyano-1-(3-hydroxy-2,2-dimethylpropyl)-6-hydroxy-4-methylpyrid-2-one | C(#N)C=1C(N(C(=CC1C)O)CC(CO)(C)C)=O | C12H16N2O3
